US08003806B2
(c) tert-Butyl (3R)-3-(1H-benzimidazol-1-yl)-3-phenylpropanoate
To a solution of tert-butyl (3R)-3-(2-aminoanilino)-3-phenylpropanoate (78 mg, 250 μmol) in 2-ethoxyethanol (2 mL), was added formamidine acetate (41 mg, 394 μmol). The solution was heated at 80° C. for 1.75 hours, and was then evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (98:2) to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=6.30 min, MH+ 323].

reactant | tert-butyl (3R)-3-(2-aminoanilino)-3-phenylpropanoate | 250 μmol, 78 mg | NC1=C(N[C@H](CC(=O)OC(C)(C)C)C2=CC=CC=C2)C=CC=C1 | C19H24N2O2
reactant | formamidine acetate | 394 μmol, 41 mg | C(C)(=O)O.C(=N)N
solvent | 2-ethoxyethanol | 2 mL | C(C)OCCO | C4H10O2
product | tert-Butyl (3R)-3-(1H-benzimidazol-1-yl)-3-phenylpropanoate | N1(C=NC2=C1C=CC=C2)[C@H](CC(=O)OC(C)(C)C)C2=CC=CC=C2 | C20H22N2O2
